US04190561
A flask is charged with 63 g of aluminium chloride and 2160 ml of anhydrous benzene. The apparatus is filled with nitrogen and 441 g of mesityl oxide are added, whilst stirring and maintaining the temperature of the mixture at +15°. The mixture is then left for 30 minutes at this temperature, whilst stirring. 1224 g of isoprene dissolved in 1800 ml of anhydrous benzene are then added in the course of 1 hour at +15°. Reaction is then effected for 20 hours at 16° followed by 6 hours at +25°, with stirring. The contents of the flask are then transferred to a separating funnel and the product is washed twice with 500 ml of 10% hydrochloric acid, once with 500 ml of water, once with 500 ml of a 9% solution of sodium bicarbonate and twice with 500 ml of water. The benzene is distilled off on a water bath, finally, under a pressure of 30 mm of mercury. 1070 g of crude product are obtained, which are purified in a Vigreux flask under a pressure of 1 mm of mercury. 560 g of 1,5,5-trimethyl-4-acetyl-cyclohex-1-ene (76.3%) are obtained, having the following physical properties:

reactant | aluminium chloride | 63 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | mesityl oxide | 441 g | O=C(C)C=C(C)C | C6H10O
reactant | isoprene | 1224 g | C=CC(C)=C | C5H8
solvent | benzene | 1800 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2160 ml | C1=CC=CC=C1 | C6H6
product | 1,5,5-trimethyl-4-acetyl-cyclohex-1-ene | 560 g, 76.3% | CC1=CCC(C(C1)(C)C)C(C)=O | C11H18O
